*CONDUCTION NMOS W1

.INCLUDE 45nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Definizione dei parametri
.PARAM Lmin=45n
.PARAM Wmin=360n
.PARAM Ldiff=90n

.csparam width = {Wmin}
	
*Descrizione della cella
Mp drain gate source body pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Vd 	drain	0		0
Vg 	gate  alim  0
Vs 	source	0		0
Vb 	body	0		0
Vdd 	alim	0		0


*Definizione del tipo di analisi
.CONTROL
let voltage=0
let Vddbasic=-1.1
while voltage ge Vddbasic
  let voltage = voltage - 0.05
  alter Vdd = voltage
  dc TEMP 85 85 10
  let V_alim = abs(V(alim))
  * print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
  echo "$&Width, $&V_alim, $&V(drain), $&V(gate), $&V(source), $&V(body), $&I(Vd), $&I(Vg), $&I(Vs), $&I(Vb)" >> out.csv
end

quit
.ENDC
.END
